US05908943
B. Epoxidation of Allyl Methacrylate
An aqueous solution containing 1.32 g (0.004 mole), of sodium tungstate dihydrate 1.0 g (0.01 mole) of phosphoric acid and 12.5 g (0.12 mole) of 30% hydrogen peroxide in 18 ml of water (mixture pH=2.05) was added to a 24 ml toluene solution containing 7.5 g (0.06 mole) of allyl methaccrylate and 1.0 g (0.0023 equiv.) trioctylmethylammonium nitrate. The mixture was stirred at 45° C. for 30 hrs and was stopped when gas chromotrography showed that almost all starting material had disappeared and a major new peak having identical retention time as commercial glycidyl methacrylate had appeared. The mixture was cooled and the organic layer was separated and washed three time with 10 ml portions of water. It was then dried over magnesium sulfate, filtered and concentrated in vacuo to give 9.8 g of a viscous amber liquid.

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | hydrogen peroxide | 0.12 mole, 12.5 g | OO | H2O2
reactant | trioctylmethylammonium nitrate | 1.0 g, 0.0023 equiv. | [N+](=O)([O-])[O-].C(CCCCCCC)[N+](C)(CCCCCCCC)CCCCCCCC
reactant | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
solvent | water | 18 ml, pH=2.05 | O | H2O
catalyst | sodium tungstate dihydrate | 0.01 mole, 1.0 g | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
product | Allyl Methacrylate | 9.8 g | C(C(=C)C)(=O)OCC=C | C7H10O2
